US08053447B2
To a solution of N-adamantan-2-yl-4-[4-(t-butyl-diphenyl-silanyloxy)-cyclohexyloxy]-benzamide (4.73 g, 7.78 mmol) in dry THF (50 mL) was added a 1N TBAF solution in THF (31, 12 mL) and the mixture was stirred for 48 hrs. at room temperature. The volatiles were evaporated in vacuo and the residue redissolved in AcOEt (50 mL) and washed with 5% aqueous citric acid and vand. The organic phase was dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was purified using a Combi Flash Sq16× with a solvent gradient starting from AcOEt/heptan (20:80) to (85:15). Desired fractions were collected and the solvent evaporated in vacuo affording 780 mg (27%) of N-adamantan-2-yl-4-(4-hydroxy-cyclohexyloxy)-benzamide as a solid.

reactant | N-adamantan-2-yl-4-[4-(t-butyl-diphenyl-silanyloxy)-cyclohexyloxy]-benzamide | 7.78 mmol, 4.73 g | C12C(C3CC(CC(C1)C3)C2)NC(C2=CC=C(C=C2)OC2CCC(CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=O | C39H49NO3Si
reactant | TBAF | 1N | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | N-adamantan-2-yl-4-(4-hydroxy-cyclohexyloxy)-benzamide | 780 mg, 27% | C12C(C3CC(CC(C1)C3)C2)NC(C2=CC=C(C=C2)OC2CCC(CC2)O)=O | C23H31NO3
